US07701129B2
Synthesis of 1,4-bis(hydroxymethyl)-6-(4-(3,7-dimethyl octyloxy)phenyl)naphthalene
Under argon atmosphere and with cooling in ice, 10.0 ml of THF solutions of LiAlH4 (1.0M) was added to 6-(4-(3,7-dimethyloctyloxy)phenyl)naphthalene-1,4-dicarboxylic-acid diethyl ester 1.42 g in THF solution, and stirred at a temperature as it was, for 3 hours.

reactant | LiAlH4 | 1.0M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(4-(3,7-dimethyloctyloxy)phenyl)naphthalene-1,4-dicarboxylic-acid diethyl ester | 1.42 g | C(C)OC(=O)C1=CC=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OCCC(CCCC(C)C)C)C(=O)OCC | C32H40O5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
product | 1,4-bis(hydroxymethyl)-6-(4-(3,7-dimethyl octyloxy)phenyl)naphthalene | OCC1=CC=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OCCC(CCCC(C)C)C)CO | C28H36O3
